US08431538B2
4-(2-Bromo-ethyl)benzoic acid methyl ester (26)
4-(2-Bromo-ethyl)-benzoic acid (1.00 g, 4.37 mmol) was dissolved in MeOH (10 mL) and cooled to 0° C. This was followed by dropwise addition of thionyl chloride (0.48 mL, 6.55 mmol). The mixture was refluxed for 2 h, followed by removal of all volatiles by rotary evaporation. The resulting oil was taken up in EtOAc (50 mL) and washed with water (50 mL). The EtOAc portion was separated, dried (Na2SO4) and concentrated to give the product (1.04 g, 98%) as a yellow oil. 1H NMR (400 MHz, CDCl3) δ 8.00 (d, 2H, J=6.54 Hz), 7.29 (d, 2H, J=7.1 Hz), 3.92 (s, 3H), 3.59 (t, 2H, J=7.38 Hz), 3.23 (t, 2H, J=7.34 Hz).

reactant | 4-(2-Bromo-ethyl)-benzoic acid | 4.37 mmol, 1.00 g | BrCCC1=CC=C(C(=O)O)C=C1 | C9H9BrO2
reactant | thionyl chloride | 6.55 mmol, 0.48 mL | S(=O)(Cl)Cl | Cl2OS
reactant | MeOH | 10 mL | CO | CH4O
product | 4-(2-Bromo-ethyl)benzoic acid methyl ester | 1.04 g, 98% | COC(C1=CC=C(C=C1)CCBr)=O | C10H11BrO2
